US08629270B2
Racemic N-[7a-(3-Bromophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
To a solution of racemic benzyl 2-benzamido-7a-(3-bromophenyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate (1.6 g, 2.9 mmol) in acetonitrile (60 mL) is added iodotrimethylsilane (1.3 mL, 9.1 mmol). The resultant solution is stirred at ambient temperature for 3 hours and concentrated to dryness. The residue is purified by ion exchange chromatography (first elute with MeOH/CH2Cl2 (¼, 50 mL), followed by 7 N NH3 in MeOH/CH2Cl2 (¼, 50 mL)) to give after evaporation of the solvent 1.7 g of intermediate, N-[7a-(3-bromophenyl)-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide. This is then dissolved in 1,4-dioxane (30 mL) and diisopropylethylamine (2.0 mL, 11 mmol) and 5-fluoro-2-chloropyrimidine (850 μL, 8.90 mmol) are added sequentially. The resulting solution is heated at 110° C. for 1 hour before additional diisopropylethylamine (1.0 mL, 5.7 mmol) is added and heating is continued for another 17 hours before it is cooled to room temperature and concentrated to dryness. The residue is purified by silica gel flash chromatography, eluting with gradient of ethyl acetate/dichloromethane (0% to 30%) to give the title compound (1.1 g, 73%). ES/MS (m/z): (79Br/81Br) 512/514 (M+H).

reactant | racemic benzyl 2-benzamido-7a-(3-bromophenyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 2.9 mmol, 1.6 g | C(C1=CC=CC=C1)(=O)NC=1SCC2C(N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C2=CC(=CC=C2)Br | C27H24BrN3O3S
reactant | iodotrimethylsilane | 9.1 mmol, 1.3 mL | I[Si](C)(C)C | C3H9ISi
reactant | diisopropylethylamine | 11 mmol, 2.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-fluoro-2-chloropyrimidine | 8.90 mmol, 850 μL | FC=1C=NC(=NC1)Cl | C4H2ClFN2
reactant | diisopropylethylamine | 5.7 mmol, 1.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | Racemic N-[7a-(3-Bromophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 1.1 g, 73% | BrC=1C=C(C=CC1)C12N=C(SCC1CN(C2)C2=NC=C(C=N2)F)NC(C2=CC=CC=C2)=O | C23H19BrFN5OS
